US08492559B2
Stage 1: tert-Butyl-3-hydroxypropyl(methyl)carbamate
84.2 g (1.2 eq.) sodium carbonate followed by 100 ml water were added in portions to a solution of 50 g (1 eq.) 3-aminopropan-1-ol in 500 ml THF at 0° C. 156.5 ml (1.02 eq.) di-tert-butyl dicarbonate were added dropwise over a period of 30 min to the solution at 0° C. On completion of the addition, the mixture was stirred for 30 min at room temperature. The reaction course was monitored by thin-layer chromatography (10% MeOH/CHCl3). Once the conversion was complete, the reaction mixture was filtered over celite and the filtrate concentrated under reduced pressure. The residue was mixed with 300 ml water and extracted with 2×250 ml ethyl acetate. The combined organic phases were dried over Na2SO4. Following removal of the solvent under reduced pressure, 116 g (100%) of product were obtained in the form of an oil.

reactant | sodium carbonate | 84.2 g, 1.2 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 100 ml | O | H2O
reactant | 3-aminopropan-1-ol | 50 g, 1 eq. | NCCCO | C3H9NO
reactant | di-tert-butyl dicarbonate | 156.5 ml, 1.02 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | tert-Butyl-3-hydroxypropyl(methyl)carbamate | 116 g, 100% | C(C)(C)(C)OC(N(C)CCCO)=O | C9H19NO3
